US05837673
1-(5'-(3"-t-Butoxycarbonylaminopropyloxy)-2'-nitrophenyl)-2-propen-1-ol (9.66 g) is dissolved in chloroform (300 ml), and thereto is added active manganese dioxide (72 g), and the mixture is refluxed. After the reaction is completed, the inorganic materials are removed by filtration through a pad of Celite, and the filtrate is concentrated, stirred at 50° C. for 6 hours, and thereto is added ethyl acetate. The mixture is washed with a saturated sodium chloride solution, and dried over sodium sulfate. The residue is purified by silica gel column chromatography to give 1-[5'-(3"-t-butoxycarbonylaminopropyloxy)-2'-nitrophenyl]-2-propen-1-one (6.01 g) as a yellow product.

reactant | 1-(5'-(3"-t-Butoxycarbonylaminopropyloxy)-2'-nitrophenyl)-2-propen-1-ol | 9.66 g | C(C)(C)(C)OC(=O)NCCCOC=1C=CC(=C(C1)C(C=C)O)[N+](=O)[O-] | C17H24N2O6
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 72 g | [O-2].[O-2].[Mn+4]
product | 1-[5'-(3"-t-butoxycarbonylaminopropyloxy)-2'-nitrophenyl]-2-propen-1-one | 6.01 g, Yield: 63% | C(C)(C)(C)OC(=O)NCCCOC=1C=CC(=C(C1)C(C=C)=O)[N+](=O)[O-] | C17H22N2O6
